US03953496
By the procedure similar to that described in example 21, ethyl 2-(2'-n-butoxybenzamido)-4-aminobenzoate and 2-n-butoxybenzoylchloride were reacted and treated to obtain crude crystals. Recrystallization from ethanol gave ethyl 2,4-bis(2'-n-butoxybenzamido)-benzoate having a melting point between 134° - 136°C.

reactant | ethyl 2-(2'-n-butoxybenzamido)-4-aminobenzoate | C(CCC)OC1=C(C(=O)NC2=C(C(=O)OCC)C=CC(=C2)N)C=CC=C1 | C20H24N2O4
reactant | 2-n-butoxybenzoylchloride | C(CCC)OC1=C(C(=O)Cl)C=CC=C1 | C11H13ClO2
product | ethyl 2,4-bis(2'-n-butoxybenzamido)-benzoate | C(CCC)OC1=C(C(=O)NC2=C(C(=O)OCC)C=CC(=C2)NC(C2=C(C=CC=C2)OCCCC)=O)C=CC=C1 | C31H36N2O6
